US08283353B2
4′-[(4-{trans-4-[(1-{[tert-butyl(dimethyl)silyl]oxy}cyclopropyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
4′-({5-Oxo-4-[trans-4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.55 g) was dissolved in methylene chloride (4 mL) under an argon atmosphere, N,N-diisopropylethylamine (0.44 mL) was added dropwise at −78° C., and the mixture was stirred at −78° C. for 40 min. tert-Butyl(dimethyl)silyl trifluoromethanesulfonate (0.58 mL) was added, and the mixture was stirred at −78° C. for 1.5 hr. The reaction mixture was added to saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by purification by silica gel column chromatography was dissolved in methylene chloride (10 mL), and the mixture was added dropwise to a mixture of diethylzinc (6.5 mL, 1.0 M hexane solution), chloroiodomethane (1.1 g) and methylene chloride (10 mL) stirred at 0° C. for 10 min under an argon atmosphere in advance. The mixture was slowly warmed to room temperature, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was added to saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.24 g, 40%).

reactant | 4′-({5-Oxo-4-[trans-4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.55 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(C)=O | C31H33N5O3
reactant | N,N-diisopropylethylamine | 0.44 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-Butyl(dimethyl)silyl trifluoromethanesulfonate | 0.58 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | diethylzinc | 1.0 M, 6.5 mL | C(C)[Zn]CC
reactant | chloroiodomethane | 1.1 g | ClCI | CH2ClI
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4′-[(4-{trans-4-[(1-{[tert-butyl(dimethyl)silyl]oxy}cyclopropyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.24 g, 40% | [Si](C)(C)(C(C)(C)C)OC1(CC1)CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C38H49N5O3Si
